US04188390
A solution of 6-methoxy-1,4-benzodioxan-2-carbonyl chloride (2.17 g.) (prepared from the acid and thionyl chloride) in dichloromethane (25 ml.) was added dropwise to a stirred suspension of 4-amino-2-piperazin-1-yl-6,7-dimethoxy-quinazoline (2.48 g.) in methylene chloride (50 ml.) at room temperature. After the addition was complete, the mixture was stirred at room temperature for 4 hours, then filtered and the solid suspended in aqueous potassium carbonate solution and extracted with chloroform. The combined extracts were washed with water, dried (Na2SO4) and evaporated in vacuo to leave a solid residue (4.15 g.) which was chromatographed on silica (160 g.) and eluted with chloroform then chloroform-methanol (2.5%). Similar fractions (t.l.c.) were combined, evaporated in vacuo then the residue taken up in ethyl acetate-methanol and treated with ethereal hydrogen chloride. Addition of further ether followed by cooling yielded a solid which was collected and recrystallized from methanol to give 4-amino-2-[4-(6-methoxy-1,4-benzodioxan-2-carbonyl)piperazin-1-yl-]-6,7-dimethoxyquinazoline hydrochloride hydrate (0.95 g.), m.p. 220°-222° C.

reactant | 6-methoxy-1,4-benzodioxan-2-carbonyl chloride | 2.17 g | COC1=CC2=C(OC(CO2)C(=O)Cl)C=C1 | C10H9ClO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-2-piperazin-1-yl-6,7-dimethoxy-quinazoline | 2.48 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-2-[4-(6-methoxy-1,4-benzodioxan-2-carbonyl)piperazin-1-yl-]-6,7-dimethoxyquinazoline hydrochloride hydrate | 0.95 g | O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1COC2=C(O1)C=CC(=C2)OC | InChI=1S/C24H27N5O6.ClH.H2O/c1-31-14-4-5-17-20(10-14)34-13-21(35-17)23(30)28-6-8-29(9-7-28)24-26-16-12-19(33-3)18(32-2)11-15(16)22(25)27-24;;/h4-5,10-12,21H,6-9,13H2,1-3H3,(H2,25,26,27);1H;1H2
